US05719141
o) 1-Benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-3-hydroxypropan-1-yl]cyclopropane
4.3 g of lithium borohydride are added in portions to a solution of 30.9 g of 1-benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-2-methoxycarbonyleth-1-yl]cyclopropane in 300 ml of tetrahydrofuran, while stirring. The mixture is stirred at room temperature for a further 2 h, 500 ml of methanol are then slowly added dropwise, the mixture is concentrated almost to dryness and the residue is taken up in methylene chloride. The organic phase is washed with 1N hydrochloric acid. Further customary working up gives the pure title compound: Rf (B)=0.50.

reactant | lithium borohydride | 4.3 g | [BH4-].[Li+]
reactant | 1-benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-2-methoxycarbonyleth-1-yl]cyclopropane | 30.9 g | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C20H29NO5
reactant | methanol | 500 ml | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxymethyl-1-[2(S)-tert-butoxycarbonylamino-3-hydroxypropan-1-yl]cyclopropane | C(C1=CC=CC=C1)OCC1(CC1)C[C@@H](CO)NC(=O)OC(C)(C)C | C19H29NO4
